US06012524
A mixture of a hydroxyethylacrylate polymerizable monomer, a 2,2'-azobis (2-amidinopropane) dihydrochloride polymerization initiator dissolved in a small amount of water, an epoxide containing liquid comprised of the diglycidyl ether of 1,4-butanediol and a diethyltoluenediamine hardening agent was prepared. The mixture contained a 1:1 ratio of the polymerizable monomer and the epoxide containing liquid. The mixture also included microsand (powdered crystalline silica) added thereto in an amount of 150% by weight of the mixture. The mixture was allowed to cure at 140° F. for 72 hours.

reactant | hydroxyethylacrylate | OCCOC(C=C)=O | C5H8O3
reactant | 2,2'-azobis (2-amidinopropane) dihydrochloride | Cl.Cl.N(=NC(C)(C)C(N)=N)C(C)(C)C(N)=N
reactant | diglycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
solvent | water | O | H2O
product | diethyltoluenediamine | C(C)C=1C(=C(C(=C(C1)C)N)N)CC | C11H18N2
